US07153875B2
To a mixture of 3,4-methylenedioxy-1-bromobenzene (5.00 g, 24.87 mmol) and 1-adamantanol (3.79 g, 24.87 mmol) in CH2Cl2 (50 mL) under an atmosphere of argon was added sulfuric acid (2.0 mL) at room temperature. After stirring for 3 days the resulting mixture was diluted with CH2Cl2 and washed with water. The aqueous layer was extracted with CH2Cl2 and the combined organics were washed successively with water, brine and dried (MgSO4). The mixture was filter, evaporated and the residue purified on silica gel (hexane) to give 4.41 g of 3-(1-adamantyl)-4,5-methylenedioxy-1-bromobenzene (53%) as a white solid, mp 135.5–136.0° C.

reactant | 3,4-methylenedioxy-1-bromobenzene | 24.87 mmol, 5.00 g | C1OC=2C=C(C=CC2O1)Br | C7H5BrO2
reactant | 1-adamantanol | 24.87 mmol, 3.79 g | C12(CC3CC(CC(C1)C3)C2)O | C10H16O
reactant | sulfuric acid | 2.0 mL | S(O)(O)(=O)=O | H2O4S
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 3-(1-adamantyl)-4,5-methylenedioxy-1-bromobenzene | 4.41 g, 53% | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=C3C2OCO3)Br | C17H19BrO2
